US06548703B1
A dispersion of 5.4 g of 2-hydroxy-3,6-dichloro carbonylnaphthalene in 20.0 g of dry tetrahydrofuran was added with 14.8 g of n-dodecylamine solution in 30 g of dry tetrahydrofuran and reacted under reflux for 12 hours. To the reaction mixture, 50 g of water was added and the precipitates were collected by filtration, washed with water and thus obtained crystal was washed with 30 g of methanol under reflux. The obtained mixture was cooled to 30° C. and filtrated, washed with methanol and dried to provide 3.3 g of 2-hydroxy-3,6-di-n-dodecylaminocarbonylnaphthalene (decomposition point: 382.9° C.).

reactant | 2-hydroxy-3,6-dichloro carbonylnaphthalene | 5.4 g | OC1=CC2=CC=C(C=C2C=C1C(=O)Cl)C(=O)Cl | C12H6Cl2O3
reactant | n-dodecylamine | 14.8 g | C(CCCCCCCCCCC)N | C12H27N
reactant | water | 50 g | O | H2O
solvent | tetrahydrofuran | 20.0 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
product | 2-hydroxy-3,6-di-n-dodecylaminocarbonylnaphthalene | 3.3 g | OC1=CC2=CC=C(C=C2C=C1C(=O)NCCCCCCCCCCCC)C(=O)NCCCCCCCCCCCC | C36H58N2O3
